US08168633B2
2-[4-(5-Chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidin-2-ylmethyl)piperazin-1-yl]isobutyramide
Prepared according to the method used in the preparation of 2-(4-azetidin-1-ylpiperidin-1-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine using 2-piperazin-1-ylisobutyramide in place of 4-azetidin-1-ylpiperidine. The title compound was obtained as a white solid (70 mg, 46%).

reactant | 2-(4-azetidin-1-ylpiperidin-1-ylmethyl)-5-chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidine | N1(CCC1)C1CCN(CC1)CC=1SC=2N=C(N=C(C2N1)N1CCOCC1)Cl | C18H25ClN6OS
reactant | 2-piperazin-1-ylisobutyramide | N1(CCNCC1)C(C(=O)N)(C)C | C8H17N3O
product | 2-[4-(5-Chloro-7-morpholin-4-ylthiazolo[5,4-d]pyrimidin-2-ylmethyl)piperazin-1-yl]isobutyramide | ClC=1N=C(C2=C(N1)SC(=N2)CN2CCN(CC2)C(C(=O)N)(C)C)N2CCOCC2 | C18H26ClN7O2S
